US03952104
A mixture of 1.0 parts of 6,8-dipropyl-4-oxo-4H-1-benzopyran-2-carboxamide, 20 parts of glacial acetic acid, and 20 parts of a solution of hydrogen bromide (45% weight/volume) in glacial acetic acid was heated at reflux for 3 hours, then added to water and extracted with chloroform. Extraction of the organic layer with saturated sodium bicarbonate solution, followed by acidification of the bicarbonate layer, afforded 0.16 parts of 6,8-dipropyl-4-oxo-4H-1-benzopyran-2-carboxylic acid, melting point 183°-184°C (decomposition). The melting point, IR spectrum and thin layer chromatographic properties of this material were identical with those of the compound prepared in Example 8.

reactant | 6,8-dipropyl-4-oxo-4H-1-benzopyran-2-carboxamide | C(CC)C=1C=C(C2=C(C(C=C(O2)C(=O)N)=O)C1)CCC | C16H19NO3
reactant | hydrogen bromide | Br | BrH
reactant | water | O | H2O
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 6,8-dipropyl-4-oxo-4H-1-benzopyran-2-carboxylic acid | C(CC)C=1C=C(C2=C(C(C=C(O2)C(=O)O)=O)C1)CCC | C16H18O4
